US08303944B2
To (S)-1-(((9H-fluoren-9-yl)methoxy)carbonyl)-2-methylpyrrolidine-2-carboxylic acid (intermediate LS30; 1.5 g; 4.3 mmol) in 50 mL DMF was added sequentially 2-amino-1-(4-bromophenyl)ethanone hydrochloride (1.2 g; 4.7 mmol), HOAT (290 mg; 2.1 mmol), Hunig's base (0.7 mL; 4.3 mmol) and EDCI (1.2 g; 6.4 mmol). After 1 h, the reaction mixture was poured into 150 mL water and allowed to stir for 15 min before filtering the resultant precipitate which was dissolved in dichloromethane and dried over magnesium sulfate. The dichloromethane mixture was filtered and applied to a Biotage 40 samplet. Chromatography on a 40M column (25 to 60% ethyl acetate/hexane over 1200 mL) provided (S)-(9H-fluoren-9-yl)methyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-2-methylpyrrolidine-1-carboxylate (intermediate LS31; 2.4 g; quant) as a yellow foam. LC (Cond'n 11): RT=3.75 min; MS: Anal. Calcd. for [M+H]+ C29H27BrN2O4: 547.1. found 547.0.

reactant | (S)-1-(((9H-fluoren-9-yl)methoxy)carbonyl)-2-methylpyrrolidine-2-carboxylic acid | 4.3 mmol, 1.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@](CCC1)(C(=O)O)C | C21H21NO4
reactant | 2-amino-1-(4-bromophenyl)ethanone hydrochloride | 4.7 mmol, 1.2 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | HOAT | 2.1 mmol, 290 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Hunig's base | 4.3 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 6.4 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | (S)-(9H-fluoren-9-yl)methyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-2-methylpyrrolidine-1-carboxylate | 2.4 g | BrC1=CC=C(C=C1)C(CNC(=O)[C@]1(N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O | C29H27BrN2O4
